* LM339 VOLTAGE COMPARATOR MACROMODEL
.SUBCKT LM339 1 2 3 4 5
F1 9 3 V1 1
IEE 3 7 DC 100.0E-6
VI1 21 1 DC .75
VI2 22 2 DC .75
Q1 9 21 7 QIN
Q2 8 22 7 QIN
Q3 9 8 4 QMO
Q4 8 8 4 QMI
.MODEL QIN PNP(IS=800.0E-18 BF=2.000E3)
.MODEL QMI NPN(IS=800.0E-18 BF=1002)
.MODEL QMO NPN(IS=800.0E-18 BF=1000 CJC=1E-15 TR=807.4E-9)
E1 10 4 9 4 1
V1 10 11 DC 0
Q5 5 11 4 QOC
.MODEL QOC NPN(IS=800.0E-18 BF=20.29E3 CJC=1E-15 TF=942.6E-12 TR=543.8E-9)
DP 4 3 DX
RP 3 4 46.3E3
.MODEL DX D(IS=800.0E-18)
.ENDS
